US04562210
A solution of 3.3. g of allyl isocyanate in 10 ml of methylene chloride is added dropwise to a mixture of 10.7 g of 2-(1,2-dichlorovinyloxy)phenylsulfonamide and 6.1 g of 1,8-diazabicyclo[5.4.0]undec-7-ene in 100 ml of methylene chloride, with stirring. When the exothermic reaction has subsided, stirring of the reaction mixture is continued at 20° to 25° C. for a further hour and the solvent is then evaporated off. The residue is dissolved in 5% sodium carbonate solution. The solution is filtered and acidified with 10% hydrochloric acid, whereupon the product precipitates as crystals. After filtration and drying, 13.2 g of N-[2-(1,2-dichlorovinyloxy)phenylsulfonyl]-N'-allylurea are obtained. Melting point: 187°-188° C.

reactant | allyl isocyanate | C(C=C)N=C=O | C4H5NO
reactant | 2-(1,2-dichlorovinyloxy)phenylsulfonamide | 10.7 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N | C8H7Cl2NO3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 6.1 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(1,2-dichlorovinyloxy)phenylsulfonyl]-N'-allylurea | 13.2 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NCC=C | C12H12Cl2N2O4S
